US06288096B1
2.76 g (20 mmole) p-hydroxyphenethyl alcohol was dissolved in 80 ml dichloromethane. 6 g triethylamine, 8.5 g (41 mmole) 4-methoxybenzenesulfonyl chloride and 0.2 g 4-dimethyl-aminopyridine were added. The mixture was stirred over night at room temperature and filtered through silica gel with dichloromethane as eluent to give 8.5 g (yield 89%) of 4-(4-methoxyphenylsulfonyloxy)phenethyl 4-methoxy-1-benzenesulfonate.

reactant | p-hydroxyphenethyl alcohol | 20 mmole, 2.76 g | OC1=CC=C(CCO)C=C1 | C8H10O2
reactant | triethylamine | 6 g | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 41 mmole, 8.5 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-(4-methoxyphenylsulfonyloxy)phenethyl 4-methoxy-1-benzenesulfonate | 8.5 g, yield 89% | COC1=CC=C(C=C1)S(=O)(=O)OCCC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)OC | C22H22O8S2
